US04336322
Synthesis of 2-Acetylamino-4-(α,α-dimethylbenzyl)-5-hexadecyloxyphenol
In 150 ml of toluene was dissolved 20 g of 2-acetylamino-5-hexadecyloxyphenol obtained in Preparation Example 3, and it was then heated at 80°-90° C. together with 8 g of Amberlyst 15 (produced by Rohm & Haas Co.). To this mixture was added dropwise 30 ml of α-methylstyrene, and the resulting mixture was heated as it is for about 7 hours. After the reaction was completed, Amberlyst 15 was removed by filtration and the filtrate was condensed. After the addition of methanol, the condensed filtrate was cooled with ice whereupon the desired product precipitated. The product was collected by filtration and washed well with methanol. Yield: 6.6 g.

reactant | 2-acetylamino-5-hexadecyloxyphenol | 20 g | C(C)(=O)NC1=C(C=C(C=C1)OCCCCCCCCCCCCCCCC)O | C24H41NO3
reactant | α-methylstyrene | 30 ml | CC(=C)C1=CC=CC=C1 | C9H10
reactant | methanol | CO | CH4O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Acetylamino-4-(α,α-dimethylbenzyl)-5-hexadecyloxyphenol | C(C)(=O)NC1=C(C=C(C(=C1)C(C1=CC=CC=C1)(C)C)OCCCCCCCCCCCCCCCC)O | C33H51NO3
